US07598393B2
Step A. 4-(Methylsulfonyl)-2-nitro-N-(tetrahydro-2H-Pyran-4-ylmethyl)aniline
The title compound was prepared according to the procedure described in Step A of Example 5 from 1-fluoro-4-(methylsulfonyl)-2-nitrobenzene (Acros Organics Ltd.) and 4-aminomethyltetrahydropyran (Apollo Scientific Ltd.).

reactant | 1-fluoro-4-(methylsulfonyl)-2-nitrobenzene | FC1=C(C=C(C=C1)S(=O)(=O)C)[N+](=O)[O-] | C7H6FNO4S
reactant | 4-aminomethyltetrahydropyran | NCC1CCOCC1 | C6H13NO
product | 4-(Methylsulfonyl)-2-nitro-N-(tetrahydro-2H-Pyran-4-ylmethyl)aniline | CS(=O)(=O)C1=CC(=C(NCC2CCOCC2)C=C1)[N+](=O)[O-] | C13H18N2O5S
